US05578620
Benzyl N-[2-t-Butyldimethylsilyloxy-1,1-dimethylethyl]carbamate
A procedure similar to that described in Preparation 8 was repeated, except that 10.00 g of 2-benzyloxycarbonylamino-2-methylpropanol, 7.35 g of imidazole, 150 ml of anhydrous dimethylformamide and 8.14 g of t-butyldimethylsilyl chloride were used, to give 14.68 g of the title compound having an Rf value of 0.73 (on silica gel thin layer chromatography, using a 1:4 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 2-benzyloxycarbonylamino-2-methylpropanol | 10.00 g | C(C1=CC=CC=C1)OC(=O)NC(CO)(C)C | C12H17NO3
reactant | imidazole | 7.35 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 8.14 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Benzyl N-[2-t-Butyldimethylsilyloxy-1,1-dimethylethyl]carbamate | 14.68 g | [Si](C)(C)(C(C)(C)C)OCC(C)(C)NC(OCC1=CC=CC=C1)=O | C18H31NO3Si
